US05459138
Stage A : 3-Oxo-2,3-dihydro-4H-pyrido[3,2-e][1,2,4]thiadiazine 1,1-dioxide
An intimate mixture of 5 g of 3-aminopyridine-2- sulfonamide (Preparation 1) and 1.91 g of urea is progressively brought to a temperature of 200° C. (melting). After gas has ceased to be given off and the mass has solidified, the reaction mixture is cooled to ambient temperature. The solid mass is redissolved in 1N NaOH and the solution obtained, optionally decolored with absorbing charcoal, is then adjusted to a pH of 2 using 1N HCl. The white precipitate corresponding to the title compound is collected on a filter, washed with water and dried.

reactant | 3-aminopyridine-2- sulfonamide | 5 g | NC=1C(=NC=CC1)S(=O)(=O)N | C5H7N3O2S
reactant | urea | 1.91 g | NC(=O)N | CH4N2O
reactant | charcoal | C | CH4
reactant | HCl | 1N | Cl | ClH
solvent | NaOH | 1N | [OH-].[Na+]
product | 3-Oxo-2,3-dihydro-4H-pyrido[3,2-e][1,2,4]thiadiazine 1,1-dioxide | O=C1NS(C2=C(N1)C=CC=N2)(=O)=O | C6H5N3O3S
